US06403561B1
Preparation of 1-(N-benzyloxycarbonyl-L-valyl)-5-methoxyindoline-2(R/S)-carboxylic Acid Butylamide
Triethylamine (2.25 ml, 16 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinyl chloride (1.539 g, 6.054 mmol) were added to a cooled solution (0° C.) of 5-methoxyindoline-2(R/S)-carboxylic acid (1.000 g, 4.03 mmol) and N-benzyloxycarbonyl-L-valine (1.135 g, 4.50 mmol) dissolved in dichloromethane (50 ml), under nitrogen. The mixture was stirred at room temperature for 22 hours and then washed with 10% citric acid (3×50 ml), 5% NaHCO3 (3×50 ml) and water (50 ml). The organic. phase was dried and concentrated: the residue was purified by chromatography on a column of silica gel, using a 3/2 petroleum ether/ethyl acetate mixture as eluent. A white solid was obtained.

reactant | Triethylamine | 16 mmol, 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinyl chloride | 6.054 mmol, 1.539 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | 5-methoxyindoline-2(R/S)-carboxylic acid | 4.03 mmol, 1.000 g | COC=1C=C2CC(NC2=CC1)C(=O)O | C10H11NO3
reactant | N-benzyloxycarbonyl-L-valine | 4.50 mmol, 1.135 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(N-benzyloxycarbonyl-L-valyl)-5-methoxyindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1N(C2=CC=C(C=C2C1)OC)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C27H35N3O5
